US07872014B2
To a mixture of [3,4-bis(methyloxy)phenyl]acetonitrile (2.0 g, 11 mmol) and ethyl 2-methylpropanoate (1.9 mL, 14 mmol) in ethanol (4 mL) was added a sodium ethoxide solution (21%, 8.4 mL, 23 mmol), and the resulting mixture was heated at reflux for 18 hours. After cooling to room temperature, it was poured into a mixture of ice-water (50 mL). This aqueous mixture was washed with dichloromethane (3×20 mL) then acidified to pH 1. The acidified mixture was extracted with ethyl acetate (3×30 mL). The combined extract was washed with aqueous sodium bicarbonate solution, brine, dried over sodium sulfate, filtered and concentrated to give 2-[3,4-bis(methyloxy)phenyl]-4-methyl-3-oxopentanenitrile as a brown oil (0.7 g, 3.4 mmol, 28% yield), MS (EI) for C14H17NO3: 248 (MH+).

reactant | [3,4-bis(methyloxy)phenyl]acetonitrile | 11 mmol, 2.0 g | COC=1C=C(C=CC1OC)CC#N | C10H11NO2
reactant | ethyl 2-methylpropanoate | 14 mmol, 1.9 mL | CC(C(=O)OCC)C | C6H12O2
reactant | sodium ethoxide | 23 mmol, 8.4 mL | [O-]CC.[Na+]
solvent | ethanol | 4 mL | C(C)O | C2H6O
product | 2-[3,4-bis(methyloxy)phenyl]-4-methyl-3-oxopentanenitrile | 3.4 mmol, 0.7 g, 28% yield | COC=1C=C(C=CC1OC)C(C#N)C(C(C)C)=O | C14H17NO3
